US09260434B2
Methyl 3-fluoro-2-(1-trityl-1H-imidazol-4-yl)benzoate
To a stirred solution of 4-iodo-1-trityl-1H-imidazole (436 mg, 1.0 mmol) in anhydrous THF (6 mL) was added EtMgBr (3.0 M in THF, 1.20 mmol, 0.40 mL) under an atmosphere of N2. The resulting solution was allowed to stir for 90 min and ZnCl2 (0.5 M in THF, 2.40 mL, 1.20 mmol) was added. The resulting white suspension was allowed to stir for 90 min and a solution of methyl 2-bromo-3-fluorobenzoate (280 mg, 1.20 mmol) in THF (1 mL) was added followed by the immediate addition of Pd(PPh3)4 (58 mg, 0.05 mmol). The reaction mixture was allowed to stir at 90° C. for 18 h under an atmosphere of N2. After cooling to room temperature, the solution was diluted with CH2Cl2 (20 mL) and the organic layer was washed with an EDTA (aq) buffer (pH=9) (2×5 mL) and brine. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The crude residue was purified by flash column chromatography to afford the desired product as yellow oil (190 mg, 41%). 1H NMR: 3.93 (s, 3H), 7.12-7.59 (m, 18H), 7.56 (s, 1H), 7.73-7.75 (m, 1H).

reactant | 4-iodo-1-trityl-1H-imidazole | 1.0 mmol, 436 mg | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | EtMgBr | 1.20 mmol, 3.0 M, 0.40 mL | CC[Mg+].[Br-]
reactant | methyl 2-bromo-3-fluorobenzoate | 1.20 mmol, 280 mg | BrC1=C(C(=O)OC)C=CC=C1F | C8H6BrFO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnCl2 | 1.20 mmol, 0.5 M, 2.40 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-fluoro-2-(1-trityl-1H-imidazol-4-yl)benzoate | 190 mg, 41% | FC=1C(=C(C(=O)OC)C=CC1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H23FN2O2
